US06451740B2
Into a mixture of ethyl [2-(5-amino-2-chloro-4-fluorophenoxy)phenoxy]acetate [Intermediate compound A3-23], ethyl chloroformate and tetrahydrofuran is added dropwise pyridine, and the mixture is stirred at room temperature. Dilute hydrochloric acid is added to the reaction solution, and this is extracted with ethyl acetate. The organic layer is washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated to obtain ethyl [2-(2-chloro-4-fluoro-5-ethoxycarbonylaminophenoxy)phenoxy]acetate [Intermediate compound A8-23].

reactant | ethyl [2-(5-amino-2-chloro-4-fluorophenoxy)phenoxy]acetate | NC=1C(=CC(=C(OC2=C(OCC(=O)OCC)C=CC=C2)C1)Cl)F | C16H15ClFNO4
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl [2-(2-chloro-4-fluoro-5-ethoxycarbonylaminophenoxy)phenoxy]acetate | ClC1=C(OC2=C(OCC(=O)OCC)C=CC=C2)C=C(C(=C1)F)NC(=O)OCC | C19H19ClFNO6
